Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.74418901095
[H:1][O:2][C:3]([H:4])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.111120357780002
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-3.0080257556800003
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],0.83177299082
[H:1][C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3][C:8][H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-6.14014721043
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6],1.63278838621
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]=[C:9]([H:10])[H:11],1.22412308959
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11],-7.06053903107
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:2]=[C:7]([H:8])[H:9].[H:1][C:10]([C:3]([H:4])([H:5])[H:6])=[C:11]([H:12])[H:13],0.95277170309
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:3].[O:1]=[C:2][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.94806413137
[H:14].[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.66569078678
[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-10.62824919
[O:1]=[C:2]=[C:3]1[C:4]([H:5])[C@@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-1.0521473326200002
[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:4]#[C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-5.8294918429
[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-6.48304160556
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],3.94065583101
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.99339011
[C:13]([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.2230634235
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2],7.69413275713
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])=[C:9][H:10].[H:6],2.51456176115
[H:10].[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.56546314472
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]([C:2][C:8]([H:9])([H:10])[H:11])([H:5])([H:6])[H:7].[C:3]#[C:4],7.916065076739999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],1.37662403132
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]1/[O:9][C:10]1([H:11])[H:12]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[O:9][C:10]([H:11])[H:12],2.38693140075
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],8.82592797603
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.6624803943900002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8].[O:9][H:10],6.779874679380001
[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]#[C:9][H:10].[H:1][C:2](/[C:3]=[C:5](\[H:6])[O:7][H:8])([H:11])[H:12],6.277270355980001
[O:1]=[C:2][C:9]([O:8][C:5]([C:3][H:4])([H:6])[H:7])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]1([H:10])[H:11],-4.6050575683
